US04636521
(i) Phenylmethyl[2-[5-[[(Methylsulphonyl)amino]methyl]-1H-indol-3-yl]ethyl]carbamate
Methanesulphonyl chloride (0.3 ml) was added in 3 portions over 3 h to a stirred, ice-cold solution of phenylmethyl[2-[5-(aminomethyl)-1H-indol-3-yl]ethyl]carbamate (0.45 g) in dry pyridine (15 ml). After a further 1 h, the mixture was partitioned between ice-cooled hydrochloric acid (1N, 300 ml) and ethyl acetate (200 ml). The organic layer was washed with brine (80 ml) and potassium carbonate solution (ca. 40%; 50 ml), dried (Na2SO4) and evaporated in vacuo to leave a yellow gum (0.45 g). Chromatography on silica gel (MFC: 18 g), eluting with increasing concentrations of ether in dichloromethane, gave the title compound (0.3 g) as an almost colourless oil.

reactant | Methanesulphonyl chloride | 0.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | phenylmethyl[2-[5-(aminomethyl)-1H-indol-3-yl]ethyl]carbamate | 0.45 g | C1(=CC=CC=C1)COC(NCCC1=CNC2=CC=C(C=C12)CN)=O | C19H21N3O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | Phenylmethyl[2-[5-[[(Methylsulphonyl)amino]methyl]-1H-indol-3-yl]ethyl]carbamate | 0.45 g | C1(=CC=CC=C1)COC(NCCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C)=O | C20H23N3O4S
